US08222248B2
A suspension of 4-amino-3-nitro-N-(6-trifluoromethylpyridin-3-yl)-benzamide (500 mg, 1.53 mmol) in THF (20 mL) was hydrogenated at one atm over Pt/C (50 mg) for 3 hours. The catalyst was filtered through Celite and washed with THF. The solvent was removed under reduced pressure to give 3,4-diamino-N-(6-trifluoromethylpyridin-3-yl)-benzamide as a yellow solid.

reactant | 4-amino-3-nitro-N-(6-trifluoromethylpyridin-3-yl)-benzamide | 1.53 mmol, 500 mg | NC1=C(C=C(C(=O)NC=2C=NC(=CC2)C(F)(F)F)C=C1)[N+](=O)[O-] | C13H9F3N4O3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | Pt/C | 50 mg | [Pt] | Pt
product | 3,4-diamino-N-(6-trifluoromethylpyridin-3-yl)-benzamide | NC=1C=C(C(=O)NC=2C=NC(=CC2)C(F)(F)F)C=CC1N | C13H11F3N4O
